US07655680B2
Ethyl iodide (0.48 ml, 6.0 mmol) and potassium carbonate (0.62 g, 4.5 mmol) were added at room temperature to a solution (7 ml) of 3-[2-(3,4-dimethoxyphenyl)thiazole-4-yl]-1-(3,4-dihydroxyphenyl)propanone (0.58 g, 1.5 mmol) in DMF, followed by stirring at 60° C. for 1 hour. After cooling to room temperature, ethyl acetate was added to the reaction mixture, the resulting mixture was filtered, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/2). The solvent was distilled off under reduced pressure, and the residue was recrystallized from an ethyl acetate/n-hexane mixed solvent, to thereby obtain 290 mg (yield: 44%) of 3-[2-(3,4-dimethoxyphenyl)thiazole-4-yl]-1-(3,4-diethoxyphenyl)propanone as a white powder.

reactant | Ethyl iodide | 6.0 mmol, 0.48 ml | C(C)I | C2H5I
reactant | potassium carbonate | 4.5 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-[2-(3,4-dimethoxyphenyl)thiazole-4-yl]-1-(3,4-dihydroxyphenyl)propanone | 1.5 mmol, 7 ml, 0.58 g | COC=1C=C(C=CC1OC)C=1SC=C(N1)CC(CC1=CC(=C(C=C1)O)O)=O | C20H19NO5S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-[2-(3,4-dimethoxyphenyl)thiazole-4-yl]-1-(3,4-diethoxyphenyl)propanone | 290 mg, yield: 44% | COC=1C=C(C=CC1OC)C=1SC=C(N1)CC(CC1=CC(=C(C=C1)OCC)OCC)=O | C24H27NO5S
